US05958967
(4-Benzyloxyphenyl)-(2,5-dimethoxyphenyl)-methanone
Butyllithium (2.0M in hexanes, 6.6 ml, 13.2 mmol) was added dropwise under nitrogen, at -78° C. to a stirred tetrahydrofuran (20 ml) solution of 4-benzyloxy-bromobenzene (3.15 g, 11.97 mmol) to give a yellow coloured suspension, which was stirred for 10 minutes. A tetrahydrofuran (10 ml) solution of N,N-dimethyl 2,5-dimethoxybenzamide (2.09 g, 9.99 mmol) was then added slowly, and the resulting mixture warmed to room temperature over 20 h. The mixture was diluted with 50ml of 1M hydrochloric acid and the product extracted into dichloromethane (4×50 ml). The combined extracts were washed with brine, dried over sodium sulfate and evaporated to a yellow coloured solid. This crude product was purified by column chromatography on silica gel 60, using 4:1 petrol/ethyl acetate as the eluent. This gave the product as a colourless solid, which was recrystallised from hot ethanol (25 ml) to give the product as colourless platelets which were vacuum dried.

reactant | Butyllithium | 13.2 mmol, 2.0M, 6.6 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-benzyloxy-bromobenzene | 11.97 mmol, 3.15 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | N,N-dimethyl 2,5-dimethoxybenzamide | 9.99 mmol, 2.09 g | CN(C(C1=C(C=CC(=C1)OC)OC)=O)C | C11H15NO3
solvent | hydrochloric acid | 1M, 50ml | Cl | ClH
product | (4-Benzyloxyphenyl)-(2,5-dimethoxyphenyl)-methanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)OC | C22H20O4
